Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Hemoptysis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with history of MS ___ recent
steroid pulse for flare on ___ and former 15-pack-year
smoking history, who presents with cough and non-massive
hemoptysis.  

The patient recently had two protracted episodes of low-grade
fevers and productive cough over the past 4 months. This first
occurred ___ late ___, when she was intermittently febrile and
has a persistent cough for 1 week. Her PCP treated her with a
7-day course of doxycycline, but the patient did not finish her
course due to nausea and vomiting. She presented to her PCP 
again
___ ___ at that time, her fevers had resolved, but her cough
continued to persist, and was frequently vomiting as well. PCP
was concerned for pertussis, and treated her with a 5-day course
of azithromycin. She then noted resolution of her symptoms, but
had a recurrence of her fevers and cough ___ ___, which
lingered for approximately three weeks; PCP sent ___ prescription
for azithromycin ___ early ___, which again completely
resolved her symptoms. 

On ___, the patient notes that her cough recurred
while she was at her partner's daughter's house; she initially
attributed this to dog hair, as the cough dissipated shortly
after leaving. However, she began to cough again on ___ 
night,
and on ___ morning, she coughed up approximately 3 
tablespoons
of bright blood into the toilet, and at that time decided to
present to the ED for further evaluation. The patient denies
having any history of hemoptysis. She has had no recent sick
contacts, no chest pain, no recent trauma, and no recent
nosebleeds.  

___ the ED the patient had subsequent hemoptysis that was darker,
with clots. She denied SOB, fevers/chills.  

Vital signs were notable for: Temp 98.7, HR 71, BP 156/83 on
arrival, decreased to 106/71 at time of transfer to floor, RR 
15,
Pox 97% on RA  

___ ED, exam was notable for rhonci ___ the left upper and middle
fields. No blood ___ nares or mouth. 

Labs ___ ED were notable for: Low WBC 3.7, nl Hgb 12.5, nl Plt
172; INR 0.9, LFTs and Chem7 wnl  

Studies performed ___ ED include: CTA Chest: notable for
___ nodularity with centrilobular micronodules 
associated
with ground-glass opacities involving the right upper and middle
lobes; nonspecific finding that may be associated with
infectious, inflammation, or small hemorrhage. No cavitary
lesions. No lymphadenopathy. No evidence of PE. CXR - no 
evidence
of PNA, no pleural effusion or pneumothorax  

Patient was given: Azithromycin 500 mg IV, Cefepime 2 g IV  

Upon arrival to the floor the patient endorses the above 
history.
She states that she is overall feeling well and has not had
episodes of coughing or hemoptysis since being transferred to 
the
medicine floor. She has no palpitations, chest pain, shortness 
of
breath, or coughing. 
 
Past Medical History:
Multiple Sclerosis - most recently treated with Gilenya before
self discontinuing due to cost ___, then had MS flare ___ late
___ ___, treated with 5 days of solumedrol ___ starting
on ___. (neurologist = Dr. ___ 
 
Social History:
___
Family History:
Strong FH of MS, autoimmune disease including psoriatic
arthritis. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VITALS:  ___ 0058 Temp: 98.5 PO BP: 146/80 L Lying HR: 56
RR: 18 O2 sat: 98% O2 delivery: Ra 

GENERAL: Alert and interactive. Resting comfortably ___ bed ___ no
acute distress.  
HEENT: NCAT. PERRL, EOMI. Moist mucous membranes.   
NECK: No cervical lymphadenopathy. No JVD.  
CARDIAC: Regular rhythm, normal rate. No murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
ABDOMEN: Soft, non-tender, non-distended. +Bowel sounds. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.  
SKIN: Warm. Cap refill <2s. No rash.  
NEUROLOGIC: CN2-12 intact. ___ strength throughout. Normal
sensation. AOx3.  

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 803)
    Temp: 98.0 (Tm 98.8), BP: 118/74 (104-143/71-82), HR: 82
(59-91), RR: 16 (___), O2 sat: 98%% (96-98), O2 delivery: RA   


GENERAL: Alert and interactive. Resting comfortably ___ bed ___ no
acute distress.  
HEENT: NCAT. PERRL, EOMI. Moist mucous membranes.   
CARDIAC: RRR though rate is elevated from baseline. No
murmurs/rubs/gallops.  
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.  
ABDOMEN: Soft, +BS, non-tender, non-distended. 
EXTREMITIES: No clubbing, cyanosis, or edema. 
SKIN: No rash.
NEUROLOGIC: Oriented x3. No increased weakness on L side.

 
Pertinent Results:
ADMISSION LABS:
==============
___ 05:24AM BLOOD WBC-3.7* RBC-4.14 Hgb-12.5 Hct-38.1 
MCV-92 MCH-30.2 MCHC-32.8 RDW-13.5 RDWSD-45.5 Plt ___
___ 05:24AM BLOOD Neuts-65.8 ___ Monos-6.6 Eos-1.9 
Baso-0.8 Im ___ AbsNeut-2.40 AbsLymp-0.88* AbsMono-0.24 
AbsEos-0.07 AbsBaso-0.03
___ 05:24AM BLOOD ___ PTT-28.5 ___
___ 05:24AM BLOOD Glucose-98 UreaN-11 Creat-0.6 Na-146 
K-4.1 Cl-107 HCO3-30 AnGap-9*
___ 05:24AM BLOOD Albumin-4.6 Calcium-9.5 Phos-4.0 Mg-1.8
___ 05:24AM BLOOD ALT-13 AST-15 AlkPhos-87 TotBili-0.2

PERTINENT LABS/MICRO/IMAGING:
============================
___ 01:00PM BLOOD LD(LDH)-160

Micro:
--------
___ 2:25 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

___ 2:30 pm BLOOD CULTURE      #2. 

   Blood Culture, Routine (Pending):    No growth to date. 

___ 3:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 11:59 am SPUTUM      Source: Expectorated. 

   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field. 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 

   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

___ 11:30 pm SPUTUM      Source: Induced. 
      ___ REQUESTED BY ___  ___. 

   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI ___ 
PAIRS. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 

   RESPIRATORY CULTURE (Final ___: 
      MODERATE GROWTH Commensal Respiratory Flora. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      NO FUNGAL ELEMENTS SEEN. 

   Immunofluorescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii). 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

___ 2:20 pm SPUTUM      Source: Induced. 

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      if pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 

   Immunofluorescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii). 

   FUNGAL CULTURE (Preliminary): 
      GRAM STAIN OF THIS SPECIMEN INDICATES CONTAMINATION WITH
      OROPHARYNGEAL SECRETIONS AND INVALIDATES RESULTS. 
      Specimen is only screened for Cryptococcus species. New 
specimen is
      recommended. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 

   MTB Direct Amplification (Preliminary): 
      M. TUBERCULOSIS DNA NOT DETECTED BY NAAT: A negative NAAT 
cannot rule
      out TB  or other mycobacterial infection. 
      . 
      NAAT results will be followed by confirmatory testing with
      conventional culture and DST methods. This TB NAAT method 
has not
      been approved by FDA for clinical diagnostic purposes. 
However, this
      laboratory has established assay performance by ___ 
validation
      ___ accordance with ___ standards. 
      . 
      Test done at ___ Mycobacteriology 
Laboratory.. 
      . 
      RESULT REC'D BY PHONE-SAMPLE WILL BE FINALIZED UPON 
RECEIPT OF
      WRITTEN REPORT. 

ASPERGILLUS GALACTOMANNAN ANTIGEN
 
Test                          Result              Reference 
Range/Units
INDEX VALUE                   0.15                <0.50
ASPERGILLUS AG,EIA,SERUM      Not Detected        Not Detected

B-GLUCAN
 
Test                          Result              Reference 
Range/Units
FUNGITELL(R) ___        <31                 <60 pg/mL
GLUCAN ASSAY                                      
INTERPRETATION                Negative      

___ 1:00 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   CRYPTOCOCCAL ANTIGEN (Final ___: 
      CRYPTOCOCCAL ANTIGEN NOT DETECTED. 

Pending: ANCA, IgA, IgG, IgM, mycoplasma

Imaging:
----------
CXR ___:
No evidence of pneumonia.

CTA Chest ___:
1. No evidence of pulmonary embolism or aortic abnormality.  No 
abnormal
dilation of the pulmonary arteries/lesion of vessels seen ___ the 
lung
parenchyma.
2. ___ nodularity with centrilobular micronodules 
associated with
ground-glass opacities involving the right upper and middle 
lobes, is
nonspecific and may be associated with infectious, inflammation, 
or pulmonary
hemorrhage.  No cavitary lesions identified.  No mediastinal or 
hilar
lymphadenopathy.

DISCHARGE LABS:
===============
___ 09:00AM BLOOD WBC-3.5* RBC-4.34 Hgb-13.2 Hct-39.9 
MCV-92 MCH-30.4 MCHC-33.1 RDW-13.1 RDWSD-43.7 Plt ___
___ 09:00AM BLOOD Glucose-102* UreaN-15 Creat-0.6 Na-140 
K-4.6 Cl-97 HCO3-27 AnGap-16
___ 09:00AM BLOOD Calcium-9.9 Phos-4.3 Mg-1.9
 
Brief Hospital Course:
PATIENT SUMMARY: 
================ 
___ female with history of MS and 15-pack-year smoking history 
who presents with several weeks of intermittent cough and 
low-grade fever and 1 day of non-massive hemoptysis, with CTA 
showing ground-glass opacities. Initial c/f infectious vs. 
inflammatory pulmonary process. 

ACUTE ISSUES: 
============= 
# Hemoptysis: 
# Cough: 
Pt coughed up 3 tablespoons of bloody sputum on ___, with 
another episode of hemoptysis ___ the ED. Cough has been 
intermittent for the past several weeks, but has responded to 
azithromycin ___ the past. Patient's symptoms are most consistent 
with an infectious etiology, most likely CAP vs. bronchitis vs. 
bronchiectasis, with imaging findings most consistent with 
pneumonia. CTA chest showed ___ nodularity with 
centrilobular micronodules associated with ground-glass 
opacities." No evidence of PE. Bacterial infection most likely, 
but fungal possible ___ setting of recent steroids for MS flare. 
TB also possible as pt may have had contact with brother who had 
been incarcerated and who had unknown lung disease several years 
ago, but much less likely as she has no other risk factors, no 
cavitary lesions on CTA, no weight loss or night sweats. Low 
suspicion for inflammatory etiologies given lack of other 
systemic symptoms and normal renal function. ___ setting of 
likely bacterial etiology, patient started on CTX/azithromycin 
___. Patient gave sputum sample x3 - no acid fast bacilli on 
___ smears, no fungal elements on ___, negative for PCP. 
B-glucan, galactomannan, and cryptococcal antigen negative. 
Mycoplasma pending. MTB Direct Amplification negative. The 
patient was evaluated by pulmonology as an inpatient given these 
episodes of recurrent pneumonia as well as 1 episode of 
recurrent hemoptysis ___ house. They felt that this was most 
likely infectious and recommended transition to moxifloxacin for 
planned total 10 day course. She will f/u with pulmonary as an 
outpatient.

CHRONIC ISSUES: 
=============== 
# Multiple Sclerosis:
The patient is not currently on treatment; was formerly on 
fingolimod but stopped ___ ___ due to cost. She is now ___ 
5-day methylprednisolone pulse (started on ___ for MS 
flare. She was scheduled for first ocrelizumab (Ocrevus) 
infusion on ___, however, this is currently being held ___ the 
setting of infection. No worsening of her baseline weakness. It 
was noted by ID that patient should get Quantiferon Gold prior 
to initiation of Ocrevus. Pulmonary also suggested to use 
caution with consideration of immunosuppressive medications 
given recent recurrent pneumonias.

# Leukopenia: 
Unclear etiology; possibly side effect of fingolimod, but 
patient has been off this medication since ___. Appears to be 
chronic issue, as WBC has been low since ___, and WBC 
on admission (3.7) is actually increased from ___, when WBC 
was 3.1.

TRANSITIONAL ISSUES:
===================
[ ] 5-day course of moxifloxacin (for 10 days total of 
antibiosis) to be completed on ___
[ ] Outpatient pulmonology follow is needed within 2 months of 
discharge to further evaluate for recurrent episodes of 
pneumonia.
[ ] F/u pending results: Mycoplasma, serum Ig, viral respiratory 
panel
[ ] Should get Quantiferon Gold prior to initiation of Ocrevus.

#CODE: Full Code 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Moxifloxacin 400 mg oral Q24H 
RX *moxifloxacin [Avelox] 400 mg 1 tablet(s) by mouth daily Disp 
#*5 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Bacterial pneumonia
-Hemoptysis

SECONDARY:
-Leukopenia
-Multiple sclerosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted because you were coughing up blood.

WHAT HAPPENED WHILE I WAS ___ THE HOSPITAL?
-You had a CT scan of your chest which showed a pneumonia. It 
did not show any blood clots ___ the lungs.
-You were started on antibiotics (ceftriaxone, azithromycin) for 
treatment of pneumonia. You were discharged on ___ to 
complete a total 10-day course.
-You gave some sputum samples to be used to rule out 
tuberculosis, all 3 samples were negative.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Continue to take all medications as prescribed. Please take an 
antibiotic medication called moxifloxacin every day for the next 
5 days (last day ___.
-Please attend all ___ clinic appointments. The 
pulmonology doctors recommend that ___ see them as an outpatient 
___ 2 months given that you have had recurrent episodes of 
pneumonia.

We wish you all the best,

Your ___ Care Team
 
Followup Instructions:
___